US06821965B1
4-methyl-N-(3-morpholinophenyl)-3-(3-pyrrolidin-3-yloxybenzamido)benzamide
Trifluoroacetic acid (0.6 ml) was added to a stirred solution of 3-[3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamido]-4-methyl-N-(3-morpholinophenyl)benzamide (0.3 g) in methylene chloride (6 ml) which had been cooled to 0° C. The reaction mixture was stirred at ambient temperature for 3 hours. The mixture was evaporated and the residue was triturated under diethyl ether to give the title compound, as its trifluoroacetate salt. The solid so obtained was dissolved in water (15 ml) and basified by the addition of potassium carbonate. The resultant precipitate was collected, washed with water and dried under vacuum to give the title compound (0.18 g); NMR Spectrum: (DMSOd6) 1.76 (m, 1H), 2.02 (m, 1H), 2.23 (s, 3H), 2.83 (ml, 2H), 3.06 (m, 5H), 3.55 (m, 1H), 3.76 (t, 4H), 4.98 (m, 1H), 6.62 (d, 1H), 7.12 (m, 2H), 7.31 (d, 1H), 7.4 (m, 3H), 7.52 (m, 2H), 7.78 (d, 1H), 7.99 (s, 1H), 10.07 (s, 1H), 10.08 (s, 1H); Mass Spectrum: M+H+ 501.

reactant | Trifluoroacetic acid | 0.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-[3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamido]-4-methyl-N-(3-morpholinophenyl)benzamide | 0.3 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC=C3)N3CCOCC3)C=CC2C)C=CC1 | C34H40N4O6
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-N-(3-morpholinophenyl)-3-(3-pyrrolidin-3-yloxybenzamido)benzamide | CC1=C(C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=C1)NC(C1=CC(=CC=C1)OC1CNCC1)=O | C29H32N4O4
